US07402596B2
To a solution of 5-amino-2-benzylisoquinolin-1(2H)-one (50 mg, 0.2 mmol) and NMM (0.022 mL, 0.2 mmol) in 1,4-dioxane (3 mL) was added dropwise at room temperature a solution of 1-adamantaneacetic acid chloride (43 mg, 0.2 mmol) in 1,4-dioxane (5 mL). The reaction mixture was stirred at room temperature for 1 h. The volatiles were removed on a rotary evaporator. The crude product was purified by prep. HPLC affording 2-Adamantan-1-yl-N-(2-benzyl-1-oxo-1,2-dihydro-isoquinolin-5-yl)-acetamide (45.5 mg, 0.11 mmol, 53% yield) as a white solid.

reactant | 5-amino-2-benzylisoquinolin-1(2H)-one | 0.2 mmol, 50 mg | NC1=C2C=CN(C(C2=CC=C1)=O)CC1=CC=CC=C1 | C16H14N2O
reactant | NMM | 0.2 mmol, 0.022 mL | CN1CCOCC1 | C5H11NO
reactant | 1-adamantaneacetic acid chloride | 0.2 mmol, 43 mg | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Adamantan-1-yl-N-(2-benzyl-1-oxo-1,2-dihydro-isoquinolin-5-yl)-acetamide | 0.11 mmol, 45.5 mg, 53% yield | C12(CC3CC(CC(C1)C3)C2)CC(=O)NC2=C3C=CN(C(C3=CC=C2)=O)CC2=CC=CC=C2 | C28H30N2O2
